US05747499
(7) Methyl α-amino-p-methoxycarbonylmethylphenylacetate
To a solution of methyl α-tert-butoxycarbonylamino-p-methoxycarbonylmethyl-phenylacetate (2.86 g, 8.5 mmol) in CH2Cl2 (10 ml) cooled at 0° C. was added 10 ml of TFA. After stirring for 1 hour at room temperature the reaction mixture was evaporated to dryness. The resulting solid was dissolved in ethyl acetate and water and the pH was adjusted to 8 with NaHCO3. After extraction with ethyl acetate the organic layers were washed with brine, dried and evaporated to give a yellow oil. After dissolution of this oil in a mixture of ether:methanol (10:1 v/v) a saturated solution of HCl in ether was added to give, after filtration, methyl α-amino-p-methoxycarbonyl-methylphenylacetate (2.2 g, 96%) as a white solid, m.p. 189.2°-189.6° C.;

reactant | methyl α-tert-butoxycarbonylamino-p-methoxycarbonylmethyl-phenylacetate | 8.5 mmol, 2.86 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1=CC=C(C=C1)CC(=O)OC | C17H23NO6
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ether methanol | CCOCC.CO
solvent | ether | CCOCC | C4H10O
product | Methyl α-amino-p-methoxycarbonylmethylphenylacetate | NC(C(=O)OC)C1=CC=C(C=C1)CC(=O)OC | C12H15NO4
